US05238958
A solution of dimethyl α-[(phenylcarbonyl)amino]-1,4-benzenediacetate (1.00 g, 2.90 mmol) from the Preparation 2 above in 20 ml of 6N HCl is heated at reflux under N2 for 19 hours. The reaction mixture is cooled and extracted with a 1:1 toluene/ether solution (2×40 ml). The aqueous layer is concentrated and the residue dissolved in H2O (10 ml) and freeze-dried. A solid, 1,4-benzenediacetic acid, a-amino-, (±) is obtained (0.72 g, 76%), mp 205° C.

reactant | dimethyl α-[(phenylcarbonyl)amino]-1,4-benzenediacetate | 2.90 mmol, 1.00 g | C1(=CC=CC=C1)C(=O)NC(C(=O)OC)C1=CC=C(C=C1)CC(=O)OC | C19H19NO5
solvent | HCl | 6N, 20 ml | Cl | ClH
product | 1,4-benzenediacetic acid | C1(=CC=C(C=C1)CC(=O)O)CC(=O)O | C10H10O4
